US08058293B2
2,5-dichloro-N-(5-methylthiazol-2-yl)benzamide
To a solution of 5-methylthiazole-2-amine (Aldrich, 1.0 g, 8.76 mmol) in tetrahydrofuran (10 mL) was added 2,5-dichlorobenzoic acid (Aldrich) (2.01 g, 10.51 mmol), triethylamine (2.93 mL, 21.02 mmol), and 1-propanephosphonic acid cyclic anhydride (Aldrich, 50% solution in ethyl acetate, 6.19 mL, 10.51 mmol). The reaction mixture was stirred at 22° C. for 14 h., cooled, and quenched with saturated aqueous NaHCO3 (20 mL). The aqueous layer was extracted with ethyl acetate (2×40 mL). The combined organic extracts were dried over anhydrous Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by column chromatography using an Analogix® Intelliflash280™ (SiO2, 0-100% ethyl acetate in hexanes) to afford 1.99 g of the title compound. MS (ESI+) m/z 287 (M+H)+.

reactant | 5-methylthiazole-2-amine | 8.76 mmol, 1.0 g | CC1=CN=C(S1)N | C4H6N2S
reactant | 2,5-dichlorobenzoic acid | 10.51 mmol, 2.01 g | ClC1=C(C(=O)O)C=C(C=C1)Cl | C7H4Cl2O2
reactant | triethylamine | 21.02 mmol, 2.93 mL | C(C)N(CC)CC | C6H15N
reactant | 1-propanephosphonic acid cyclic anhydride | 10.51 mmol, 6.19 mL | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2,5-dichloro-N-(5-methylthiazol-2-yl)benzamide | 1.99 g | ClC1=C(C(=O)NC=2SC(=CN2)C)C=C(C=C1)Cl | C11H8Cl2N2OS
